US08314100B2
1-[(2,6-Dimethoxyquinoxalin-3-yl)aminocarbonyl]-4-(3,4,5-trimethoxyphenyl)piperazine (Compound 69)
Ethyl N-(2,6-dimethoxyquinoxalin-3-yl)carbamate and 1-(3,4,5-trimethoxyphenyl)piperazine were reacted by the same way with the example 64 to obtain the titled compound (yield, 97%). 1H NMR (300 MHz, CDCl3): δ 3.55-3.87 (m, 10H), 4.12 (s, 4H), 6.67 (d, J=8.4 Hz, 1H), 7.14 (d, J=9.0 Hz, 1H), 7.25 (s, 1H), 7.34 (s, 1H), 7.51 (t, J=7.2 Hz, 1H), 7.64 (d, J=9.0 Hz, 1H), 8.21 (d, J=3.6 Hz, 1H).

reactant | Ethyl N-(2,6-dimethoxyquinoxalin-3-yl)carbamate | COC1=NC2=CC=C(C=C2N=C1NC(OCC)=O)OC | C13H15N3O4
reactant | 1-(3,4,5-trimethoxyphenyl)piperazine | COC=1C=C(C=C(C1OC)OC)N1CCNCC1 | C13H20N2O3
product | 1-[(2,6-Dimethoxyquinoxalin-3-yl)aminocarbonyl]-4-(3,4,5-trimethoxyphenyl)piperazine | 97% | COC1=NC2=CC=C(C=C2N=C1NC(=O)N1CCN(CC1)C1=CC(=C(C(=C1)OC)OC)OC)OC | C24H29N5O6
